US04110324
In a vial, protected against the light, is dissolved: 2.5g of 3-cyclopentyl ether of estriol obtained in (a) above, in 25 cc of anhydrous pyridine.

reactant | estriol | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1C[C@H]([C@@H]2O)O)O | C18H24O3
solvent | pyridine | 25 cc | N1=CC=CC=C1 | C5H5N
product | 3-cyclopentyl ether | 2.5g | C1CC(CC1)OC1CCCC1 | C10H18O
